US05198446
Preparation of N-{[dimethyl-(2-fluorobenzyl)silyl]methyl}piperidine hydrochloride
A solution containing 10.8 g of chloromethyldimethyl-(2-fluorobenzyl)silane and 10.6 g of piperidine in 40 ml of xylene is refluxed for 5.5 hours, then cooled down and washed 5 times with a total of 250 ml of water. After drying the organic phase over anhydrous magnesium sulfate and filtering off the drying agent, the filtrate is evaporated to solvent-free. The oily pale yellow residue is dissolved in 40 ml of methyl ethyl ketone and acidified to pH 4.5 by adding methanolic hydrogen chloride solution. 15 ml of solvent are distilled off from the solution under atmospheric pressure, the crystalline precipitate obtained is filtered at 0° C. and dried to give 13.1 g (87%) of the named product, m.p.: 203°-205° C.

reactant | chloromethyldimethyl-(2-fluorobenzyl)silane | 10.8 g | ClC[Si](CC1=C(C=CC=C1)F)(C)C | C10H14ClFSi
reactant | piperidine | 10.6 g | N1CCCCC1 | C5H11N
solvent | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-{[dimethyl-(2-fluorobenzyl)silyl]methyl}piperidine hydrochloride | 13.1 g, 87% | Cl.C[Si](CC1=C(C=CC=C1)F)(C)CN1CCCCC1 | InChI=1S/C15H24FNSi.ClH/c1-18(2,13-17-10-6-3-7-11-17)12-14-8-4-5-9-15(14)16;/h4-5,8-9H,3,6-7,10-13H2,1-2H3;1H
